US08912186B2
By a procedure similar to that of example 1.4, starting from methyl 3,4-diaminobenzoate and 3-(4-chlorophenyl)glutaric anhydride, 4-(5-carboxy-2-benzimidazolyl)-3-(4-chlorophenyl)butanoic acid•HCl was obtained as colourless solid.

reactant | methyl 3,4-diaminobenzoate | NC=1C=C(C(=O)OC)C=CC1N | C8H10N2O2
reactant | 3-(4-chlorophenyl)glutaric anhydride | ClC1=CC=C(C=C1)C1CC(=O)OC(C1)=O | C11H9ClO3
product | 4-(5-carboxy-2-benzimidazolyl)-3-(4-chlorophenyl)butanoic acid•HCl | C(=O)(O)C1=CC2=C(N=C(N2)CC(CC(=O)O)C2=CC=C(C=C2)Cl)C=C1.Cl | InChI=1S/C18H15ClN2O4.ClH/c19-13-4-1-10(2-5-13)12(9-17(22)23)8-16-20-14-6-3-11(18(24)25)7-15(14)21-16;/h1-7,12H,8-9H2,(H,20,21)(H,22,23)(H,24,25);1H
